US07153854B2
To lithium chloride (16.5 mg) was added a solution of ethyl 5-[4-(2-chloro-4-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate (65 mg) and tributyl(vinyl)stannane (56.7 mg) in dioxane (1 mL) and tetrakis(triphenylphosphine)palladium(0) (1.9 mg). The mixture was refluxed. After 4 hours, tributyl(vinyl)stannane (50 mg) and tetrakis(triphenylphosphine)palladium(0) (1.9 mg) was added. After refluxed over night, the reaction mixture was quenched with potassium fluoride (1.8 mmol) in H2O. The mixture was filtered through Celite and was washed with ethyl acetate. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by flash silica gel chromatography (silica gel, 50 mL) eluted with hexane-ethyl acetate=5-1 and 3-1 to give ethyl 5-[7-ethyl-2-methyl-4-(2-vinyl-4-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate (18 mg, 28.3%) as an yellow oil.

reactant | lithium chloride | 16.5 mg | [Cl-].[Li+]
reactant | ethyl 5-[4-(2-chloro-4-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 65 mg | ClC1=NC=CC(=C1)C=1C=2N(N=C(C1CCCCC(=O)OCC)C)C(=CC2)CC | C22H26ClN3O2
reactant | tributyl(vinyl)stannane | 56.7 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | tributyl(vinyl)stannane | 50 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | potassium fluoride | 1.8 mmol | [F-].[K+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | tetrakis(triphenylphosphine)palladium(0) | 1.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 5-[7-ethyl-2-methyl-4-(2-vinyl-4-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 18 mg, 28.3% | C(C)C1=CC=C2N1N=C(C(=C2C2=CC(=NC=C2)C=C)CCCCC(=O)OCC)C | C24H29N3O2
